US07737166B2
Ethyl [1-(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)azetidin-3-yl]acetate (I-190)
Under nitrogen atmosphere, 2-chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile (I-130) (400 mg, 1.40 mmol) was dissolved in methylene chloride (15 ml), then diisopropylethylamine (537 μl, 3.08 mmol) and ethyl azetidine-3-acetate (503 mg, 2.80 mmol) dissolved in methylene chloride (5 ml) were added, followed by heating under reflux for 19 hours. After cooling, diluting with chloroform and washing with water, the organic layer was dried over anhydrous magnesium sulfate, then the solvent was evaporated away under reduced pressure. The resulting residue was subjected to preparative silica gel column chromatography. From the eluate with ethyl acetate/hexane (1:1, v/v), the entitled compound (420 mg, 76%) was obtained as a colorless oil.

reactant | 2-chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile | 1.40 mmol, 400 mg | ClC=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C15H8ClFN2O
reactant | diisopropylethylamine | 3.08 mmol, 537 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl azetidine-3-acetate | 2.80 mmol, 503 mg | N1CC(C1)CC(=O)OCC | C7H13NO2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Ethyl [1-(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)azetidin-3-yl]acetate | 420 mg, 76% | C(#N)C1=C(C(=C(C2=C1N=C(O2)N2CC(C2)CC(=O)OCC)F)C2=CC=CC=C2)C | C22H20FN3O3
